US06326372B1
Step 4: 1-[3-[4-(4-Fluorophenyl)piperidin-1-yl]propylaminocarbonyl]-6-phenylpiperidin-2-one Hydrochloride
A solution 6-phenylpiperidin-2-one (132 mg, 0.753 mmol) in tetrahydrofuran (3 mL) was added to a suspension of 95% sodium hydride (40 mg, 1.67 mmol) in tetrahydrofuran (3 mL). The mixture was stirred at ambient temperature for 30 minutes. The resulting solution was transferred via syringe to a solution of 4-nitrophenylchloroformate (152 mg, 0.754 mmol) in tetrahydrofuran (3 mL) which had previously been chilled to −78° C. The mixture was stirred at −78° C. for 2 hours, then evaporated to dryness. The residue was dissolved in 6 mL of dichloromethane and treated with a solution of 1-(3-aminopropyl)-4-(4-fluorophenyl)piperidine (220 mg, 0.931 mmol) in dichloromethane (4 mL) and triethylamine (209 mL, 1.50 mmol). The yellow reaction mixture was stirred at ambient temperature for 18 hours, and then evaporated to dryness. The resulting solid was purified by “flash” chromatography (98:2 dichloromethane : methanol), and the product fractions were evaporated to dryness. The resulting oil was dissolved in dichloromethane and washed six times with saturated sodium bicarbonate and once with brine. The organic phase was then dried over sodium sulfate, filtered, and the filtrate was evaporated to an oil. This residue was treated with HCl-saturated ethyl acetate, evaporated to dryness, and reconcentrated from diethyl ether twice to give the title compound as a solid.

reactant | 6-phenylpiperidin-2-one | 0.753 mmol, 132 mg | C1(=CC=CC=C1)C1CCCC(N1)=O | C11H13NO
reactant | sodium hydride | 1.67 mmol, 40 mg | [H-].[Na+]
reactant | 4-nitrophenylchloroformate | 0.754 mmol, 152 mg | C1=CC(=CC=C1[N+](=O)[O-])[Cl-]C(=O)[O-]
reactant | 1-(3-aminopropyl)-4-(4-fluorophenyl)piperidine | 0.931 mmol, 220 mg | NCCCN1CCC(CC1)C1=CC=C(C=C1)F | C14H21FN2
reactant | triethylamine | 1.50 mmol, 209 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | 1-[3-[4-(4-Fluorophenyl)piperidin-1-yl]propylaminocarbonyl]-6-phenylpiperidin-2-one Hydrochloride | Cl.FC1=CC=C(C=C1)C1CCN(CC1)CCCNC(=O)N1C(CCCC1C1=CC=CC=C1)=O | InChI=1S/C26H32FN3O2.ClH/c27-23-12-10-20(11-13-23)21-14-18-29(19-15-21)17-5-16-28-26(32)30-24(8-4-9-25(30)31)22-6-2-1-3-7-22;/h1-3,6-7,10-13,21,24H,4-5,8-9,14-19H2,(H,28,32);1H
